US04374248
3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1-oxide
A solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine (4.15 g; 17.9 mmoles) in 50 ml of methanol was added dropwise over a 30 minute period to a solution of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide (2.91 g; 17.9 mmoles) in 350 ml of methanol that had been cooled in an ice-water bath. The reaction mixture was treated with a solution of sodium hydroxide pellets (3.58 g; 89.5 mmoles) in methanol. After stirring overnight at ambient temperature, the mixture was neutralized with 14.9 ml (89.5 mmoles) of aqueous 6.0 N HCl and after 10 minutes was evaporated under reduced pressure. The solid residue was triturated for 2 hours with 70 ml of water at ambient temperature and filtered to give product. Recrystallization from water yielded the title compound, mp 148°-151°.

reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | 17.9 mmoles, 4.15 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | 17.9 mmoles, 2.91 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 6.0 N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 350 ml | CO | CH4O
product | 3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1-oxide | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1O)=O | C9H13N7O2S3
